US07553837B2
0.5 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid, 20 ml of methylene chloride and 0.27 g of thionyl chloride were added, followed by heating at reflux for 2 hours. After returning the temperature to room temperature, the solvent was distilled off to obtain 2,4,6,7-tetramethyl-5-nitro-2,3-dihydrobenzofuran-2-carbonyl chloride. To 0.33 g of 2,3,4,9-tetrahydro-1H-beta-carboline, 0.23 g of triethylamine and 15 ml of DMF, a solution prepared by dissolving 2,4,6,7-tetramethyl-5-nitro-2,3-dihydrobenzofuran-2-carbonyl chloride in DMF was added, followed by stirring overnight at room temperature. The mixture was poured into ice-water and a crystal was collected by filtration. The crystal was dissolved in chloroform, washed with saturated saline and dried over anhydrous magnesium sulfate and, after the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=100:1) to obtain 0.54 g of the objective product.

reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid | 0.5 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C(=O)O | C13H17NO5
reactant | thionyl chloride | 0.27 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,4,6,7-tetramethyl-5-nitro-2,3-dihydrobenzofuran-2-carbonyl chloride | CC1(OC2=C(C1)C(=C(C(=C2C)C)[N+](=O)[O-])C)C(=O)Cl | C13H14ClNO4
